US08859569B2
3-Iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine
2.180 g (purity 73%, approx. 11.82 mmol) of 6-methyl-1H-pyrazolo[3,4-d]pyrimidine and 3.987 g (17.72 mmol) of N-iodosuccinimide were dissolved in 30 ml DMF and heated for 2 h at 80° C. After cooling, the mixture was concentrated in the rotary evaporator and the residue was mixed with dichloromethane, filtered with suction and dried under high vacuum. 7.950 g (approx. 38% purity) of the target compound was obtained.

reactant | 6-methyl-1H-pyrazolo[3,4-d]pyrimidine | approx. 11.82 mmol, 2.180 g | CC1=NC=C2C(=N1)NN=C2 | C6H6N4
reactant | N-iodosuccinimide | 17.72 mmol, 3.987 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | IC1=NNC2=NC(=NC=C21)C | C6H5IN4
